US05134231
Sodium borohydride (1.89 g; 50 mmole) was added to methanol (20 ml), and the solution was heated under reflux for 10 minutes and then allowed to cool to room temperature. p-Nitrobenzyl 3-oxo-5-benzyloxy-4-methylpentanoate (3.7 g; 10 mmole) was dropwise added thereto, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate and washed with dilute hydrochloric acid and an aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After removal of the solvent under reduced pressure, the residue was purified by silica gel column chromatography to give methyl 3-oxo-5-benzyloxy-4-methylpentanoate.

reactant | Sodium borohydride | 50 mmole, 1.89 g | [BH4-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
reactant | p-Nitrobenzyl 3-oxo-5-benzyloxy-4-methylpentanoate | 10 mmole, 3.7 g | O=C(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(COCC1=CC=CC=C1)C | C20H21NO6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-oxo-5-benzyloxy-4-methylpentanoate | O=C(CC(=O)OC)C(COCC1=CC=CC=C1)C | C14H18O4
